US06809097B1
4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline (250 mg, 0.74 mmol) was added to a solution of 5-benzyloxy-2-fluoro-4-methylphenol (257 mg 1.1 mmol) and potassium t-butoxide (125 mg, 1.1 mmol) in DMSO (3 ml) and the mixture heated at 160° C. for 1.5 hours. The mixture was allowed to cool and was partitioned between water and ethyl acetate. The organic layer was separated, washed with brine, dried (MgSO4), and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(3-morpholinopropoxy)quinoline (105 mg, 69%).

reactant | 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline | 0.74 mmol, 250 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C17H21ClN2O3
reactant | 5-benzyloxy-2-fluoro-4-methylphenol | 1.1 mmol, 257 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)O)F)C | C14H13FO2
reactant | potassium t-butoxide | 1.1 mmol, 125 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(3-morpholinopropoxy)quinoline | 105 mg, 69% | C(C1=CC=CC=C1)OC=1C(=CC(=C(OC2=CC=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C1)F)C | C31H33FN2O5
